US08022062B2
7-Chloro-6-[1-(6-methylpyridin-2-yl)-ethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride, Isomer 1
Use a method similar to the Preparation 177, except that the alkylation is conducted at 0° C., to react 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine with (R)-methanesulfonic acid 1-(6-methyl-pyridin-2-yl)-ethyl ester. Use a method similar to the General Procedure 1-5, basic workup, and a method similar to the General Procedure 2-2 to give the title compound as a white solid. MS (APCI+) m/z: 333 (M+H)+; ee >97%, tR=6.53 min. (Chiral HPLC: Chiralpak OJ 120 Å 4.6×250 mm, 45° C.; eluent: 20% isopropanol with 0.05% triethylamine in SFC, flow rate 2 mL/min, LTV detector at 234 nm).

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | (R)-methanesulfonic acid 1-(6-methyl-pyridin-2-yl)-ethyl ester | CC1=CC=CC(=N1)[C@@H](C)OS(=O)(=O)C | C9H13NO3S
product | 7-Chloro-6-[1-(6-methylpyridin-2-yl)-ethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SC(C)C1=NC(=CC=C1)C | InChI=1S/C18H21ClN2S.ClH/c1-12-4-3-5-17(21-12)13(2)22-18-15-9-11-20-10-8-14(15)6-7-16(18)19;/h3-7,13,20H,8-11H2,1-2H3;1H
